US07365069B2
N-(4-tert-Butylphenyl)-4-(methylthio)benzenecarboximidamide
The title compound was prepared from 4-methylthiobenzonitrile (1 g, 6.7 mmol) and 4-tert-butylaniline (1 g, 6.7 mmol) by following the procedure described in preparation 10 (1.24 g, yield 62.13%, purity 98.67% by HPLC). 1H-NMR (CDCl3):δ 1.32 (s, 9H), 2.51 (s, 3H), 4.81 (bs, 2H, D2O exchangeable), 6.90-6.92 (d, 2H), 7.26-7.29 (m, 2H), 7.35-7.37 (m, 2H), 7.78-7.8 (d, 2H). MS m/z:299.4 (M+).

reactant | 4-methylthiobenzonitrile | 6.7 mmol, 1 g | CSC1=CC=C(C#N)C=C1 | C8H7NS
reactant | 4-tert-butylaniline | 6.7 mmol, 1 g | C(C)(C)(C)C1=CC=C(N)C=C1 | C10H15N
product | N-(4-tert-Butylphenyl)-4-(methylthio)benzenecarboximidamide | yield 62.13% | C(C)(C)(C)C1=CC=C(C=C1)NC(=N)C1=CC=C(C=C1)SC | C18H22N2S
